US07585869B2
{4-[4-(6,7-Dimethoxy-quinazolin-4-ylamino)-2-methyl-phenoxy]-piperidin-1-yl}-(tetrahydro-furan-2-yl)-methanone:
To a solution of 1,1′-carbonyldiimidizole (41.38 mg, 0.255 mmol) in N,N-dimethylformamide (1 mL) was added (R)-(+)-tetrahydrofuroic acid (29.6 mg, 0.255 mmol). The reaction was stirred at room temperature for 30 minutes then (6,7-dimethoxy-quinazolin-4-yl)-[3-methyl-4-(piperidin-4-yloxy)-phenyl]-amine hydrochloride was added. The reaction was stirred at room temperature overnight. The following day, the reaction was filtered through a 0.45 μm PTFE membrane filter and purified by preparatory HPLC. 1H NMR (300 MHz, DMSO-d6) δ 9.35 (s, 1H), 8.39 (s, 1H), 8.15 (s, 1H), 7.82 (s, 1H), 7.51(d, d, J=8.71 Hz, 2H), 7.16(s, 1H), 7.05(d, J=8.4 Hz, 1H), (t, J=13.06 Hz, 7.15 Hz, 1H), 3.95(s, 3H), 3.93(s, 3H), 3.75(m, 4H), 3.44(m, 2H), 2.21(s, 3H), 2.03(m, 4H), 1.85(m, 2H), 1.70(m, 2H), LMRS (M+): 493.5, (M−): 491.5.

reactant | (R)-(+)-tetrahydrofuroic acid | 0.255 mmol, 29.6 mg | O1[C@H](CCC1)C(=O)O | C5H8O3
reactant | (6,7-dimethoxy-quinazolin-4-yl)-[3-methyl-4-(piperidin-4-yloxy)-phenyl]-amine hydrochloride | Cl.COC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)OC1CCNCC1)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | {4-[4-(6,7-Dimethoxy-quinazolin-4-ylamino)-2-methyl-phenoxy]-piperidin-1-yl}-(tetrahydro-furan-2-yl)-methanone | COC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(OC2CCN(CC2)C(=O)C2OCCC2)C=C1)C | C27H32N4O5
